US06015821
To an ice-cooled solution of z,z,z-octadeca-6,9,12-trienol (2 g, 7.56 mmol) and triethylamine (2.02 g, 20 mmol) in methylene chloride (20 ml) was added dropwise with stirring chloroacetyl chloride (1.13 g, 10 mmol) in methylene chloride (20 ml) under an atmosphere of nitrogen. On completion of the reaction as shown by tlc, the mixture was washed with water (2×100 ml) and saturated sodium chloride solution (100 ml). The organic phase was dried with magnesium sulfate, filtered and concentrated under reduced pressure. Toluene (100 ml) was added to azeotropically remove final traces of water. z,z,z-octadeca-6,9,12-trienyl-(2-chloro)acetate was obtained as a dark brown oil.

reactant | z,z,z-octadeca-6,9,12-trienol | 7.56 mmol, 2 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)O | C18H32O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 10 mmol, 1.13 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | z,z,z-octadeca-6,9,12-trienyl-(2-chloro)acetate | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)OC(CCl)=O | C20H33ClO2
